US06541626B2
The polymer bound cyclohexylurea (PS-DCU; 1 g of 1.25 mmol/g) recovered after N-acylation is suspended in dichloromethane (20 ml) in a two-necked round-bottom flask (100 ml) equipped with a silicone rubber septum and a reverse filter funnel under exclusion of moisture and air. Phosphorus oxychloride (POCl3; 0.38 g, 2.5 mmol) is added slowly over a period of 10 minutes to the above suspension of PS-DCU. The mixture is shaken gently for 4-6 hours and supernatant is removed by reverse filtration and replaced by 10% aqueous NaOH (5 ml) and fresh dichloromethane (20 ml). The suspension is shaken for 1 hour and supernatant is removed. The polymer is washed with tetrahydrofuran (2×25 ml) to remove excess of water and base and dried under vacuum to furnish PS-DCC. The process of dehydration is monitored by taking a small amount of POCl3 treated polymer and using it for the conversion of acetic acid to acetic anhydride. The formation of acetic anhydride is monitored by quantitative 1H NMR and GC analysis of the product. The regenerated PS-DCC is found to be stable at room temperature and useful for another round of N-acylation.

reactant | cyclohexylurea | 1 g | C1(CCCCC1)NC(=O)N | C7H14N2O
reactant | Phosphorus oxychloride | 2.5 mmol, 0.38 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
